US06458798B1
(6-2) 4-Chloro-5-(2-methoxyethyl)-6-methylpyrimidine-2-ylamine
A mixture of 2-amino-5-(2-methoxyethyl)-6-methylpyrimidine-4-ol (600 mg, 3.27 mmol) and phosphorus oxychloride (6 ml) was kept at 90° C. for 5.5 hours. The reaction mixture was concentrated in vacuo. Was added to the residue and an aqueous ammonia solution was cautiously added. The mixture was extracted with chloroform and the organic layer was washed with saturated brine, dried over sodium sulfate and the solvent was concentrated. The residue was purified by silica gel column chromatography (chloroform: ethyl acetate=8:2) to give the object compound (200 mg, 30.3%).

reactant | 2-amino-5-(2-methoxyethyl)-6-methylpyrimidine-4-ol | 3.27 mmol, 600 mg | NC1=NC(=C(C(=N1)O)CCOC)C | C8H13N3O2
reactant | phosphorus oxychloride | 6 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-5-(2-methoxyethyl)-6-methylpyrimidine-2-ylamine | 200 mg, 30.3% | ClC1=NC(=NC(=C1CCOC)C)N | C8H12ClN3O
